US09382265B2
(c) 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-t-butylaminosulfonylphenyl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide
Compound 5-chloro-N-(((3S,3aS)-1-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide (60 mg, 0.122 mmol) and N-t-butyl-o-bromobenzenesulfonamide (43 mg, 0.147 mmol) were dissolved in a mixed solvent of dioxane (5 ml) and water (0.5 ml). Cesium carbonate (80 mg, 0.245 mmol) was added, and tetrakis (triphenylphosphine) palladium (15 mg, 0.012 mmol) was added under the protection of Ar. The resulting mixture was allowed to react under agitation at 80° C. overnight. TLC (PE/EA=1/1) was employed to monitor the reaction. After the reaction completed, the mixture was filtered under reduced pressure, and the solvent was evaporated. Column chromatography (PE/EA=2/1) afforded off-white solid 25 mg, yield: 35.2%.

reactant | 5-chloro-N-(((3S,3aS)-1-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | 0.122 mmol, 60 mg | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)B3OC(C(O3)(C)C)(C)C)=O | C22H24BClN2O6S
reactant | N-t-butyl-o-bromobenzenesulfonamide | 0.147 mmol, 43 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)Br | C10H14BrNO2S
reactant | Cesium carbonate | 0.245 mmol, 80 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium | 0.012 mmol, 15 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-t-butylaminosulfonylphenyl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | 25 mg, yield: 35.2% | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C3=C(C=CC=C3)S(=O)(=O)NC(C)(C)C)=O | C26H26ClN3O6S2
